US07470679B2
2-(R)-(2-Acetoxymethyl-4-amino-3-methyl-benzyl)-succinic acid diethyl ester
Trifluoroacetic acid (2.5 mL) was added to a solution of 2-(R)-(acetoxymethyl-4-tert-butoxycarbonylamino-3-methyl-benzyl)-succinic acid diethyl ester (525 mg, 1.1 mmol) in dichloromethane (10 mL). Reaction mixture was stirred at room temperature for 1 hour. Mixture was concentrated in vacuo. Residue was treated with aqueous sodium bicarbonate and extracted with ethyl acetate (2×20 mL). Combined organic layers were dried (magnesium sulfate), filtered and concentrated in vacuo. The title compound was obtained as amber oil in 99% yield. MS m/e (M−C2H4O2+H)+=306.1.

reactant | Trifluoroacetic acid | 2.5 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | 2-(R)-(acetoxymethyl-4-tert-butoxycarbonylamino-3-methyl-benzyl)-succinic acid diethyl ester | 1.1 mmol, 525 mg | C(C)OC([C@H](CC(=O)OCC)C(C1=CC(=C(C=C1)NC(=O)OC(C)(C)C)C)COC(C)=O)=O | C24H35NO8
reactant | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | 2-(R)-(2-Acetoxymethyl-4-amino-3-methyl-benzyl)-succinic acid diethyl ester | 99% yield | C(C)OC([C@@H](CC(=O)OCC)CC1=C(C(=C(C=C1)N)C)COC(C)=O)=O | C19H27NO6
